US09024022B2
Compound 5: benzylguanine-Tb(KR)
Introduced into a 1.5 ml Eppendorf tube were 100 μl of a solution containing 10 mmol·l−1 of 6-aminomethylbenzylguanine in anhydrous dimethylsulfoxide (1 μmol) and 100 μl of a solution containing 10 mmol·l−1 of Tb(KR)-NHS in anhydrous dimethylsulfoxide (1 μmol). The mixture was stirred for one hour. The reaction was monitored by HPLC on a Merck Lichrospher RP °18, 5 μm, 125×4.6 column with a gradient of acetonitrile in water containing 25 mM of triethylammonium acetate.

reactant | 6-aminomethylbenzylguanine | 10 mmol·l−1 | NCC1=CC=CC=C1CNC=1NC(C=2NC=NC2N1)=O | C13H14N6O
reactant | dimethylsulfoxide | 1 μmol | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 1 μmol | CS(=O)C | C2H6OS
reactant | acetonitrile | C(C)#N | C2H3N
reactant | triethylammonium acetate | C(C)(=O)[O-].C(C)[NH+](CC)CC
solvent | water | 25 mM | O | H2O
product | benzylguanine | C(C1=CC=CC=C1)NC=1NC(C=2NC=NC2N1)=O | C12H11N5O
